US09056859B2
A solution of 1-(hydroxymethyl)-3,4-dihydro-1H-isochromene-5-carbonitrile (0.16 g, 0.85 mmol) in 4 mL of DCM was added Dess-Martin reagent (0.72 g, 1.7 mmol) in one portion at 0° C. The mixture was stirred at 0° C. for 1 hour, and then stirred at rt. Overnight. The reaction mixture was filtered and the filtrate was concentrated to give 1-formyl-3,4-dihydro-1H-isochromene-5-carbonitrile. 1H-NMR (400 MHz, CDCl3) δ 9.71 (s, 1H), 7.93˜7.95 (in, 1H), 7.64˜7.68 (m, 1H), 4.99 (s, 1H), 4.03˜4.09 (m, 2H), 2.99˜3.04 (m, 2H).

reactant | 1-(hydroxymethyl)-3,4-dihydro-1H-isochromene-5-carbonitrile | 0.85 mmol, 0.16 g | OCC1OCCC=2C(=CC=CC12)C#N | C11H11NO2
reactant | Dess-Martin reagent | 1.7 mmol, 0.72 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-formyl-3,4-dihydro-1H-isochromene-5-carbonitrile | C(=O)C1OCCC=2C(=CC=CC12)C#N | C11H9NO2
